US05374720
A 5.3M methylamine-ethanol solution (5 ml, 26.6 mmol) was added to 3-[(2S,4R)-4-tert-butyldimethylsiloxy-N-(p-nitrobenzyloxycarbonyl)pyrrolidin-2-yl]acrylic acid ethyl ester (2.94 g, 6.15 mmol, compound of Reference Example 1-6 of Japanese Patent Application No. 342,948/1989) at room temperature, and the mixture was left to stand at the same temperature for 2 days. The reaction mixture was concentrated under reduced pressure, and the residue was subjected to silica gel column chromatography (Wakogel™ C-300, ethyl acetate) to obtain 3-methylamino-3-[(2S,4R)-4-tert-butyldimethylsiloxy-N-(p-nitrobenzyloxycarbonyl)pyrrolidin-2-yl]propionic acid ethyl ester (1.67 g, yield: 53.3%).

reactant | methylamine ethanol | 26.6 mmol, 5.3M, 5 ml | CN.C(C)O
reactant | 3-[(2S,4R)-4-tert-butyldimethylsiloxy-N-(p-nitrobenzyloxycarbonyl)pyrrolidin-2-yl]acrylic acid ethyl ester | C(C)OC(C=C[C@H]1N(C[C@@H](C1)O[Si](C)(C)C(C)(C)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C23H34N2O7Si
product | 3-methylamino-3-[(2S,4R)-4-tert-butyldimethylsiloxy-N-(p-nitrobenzyloxycarbonyl)pyrrolidin-2-yl]propionic acid ethyl ester | 1.67 g, yield: 53.3% | C(C)OC(CC([C@H]1N(C[C@@H](C1)O[Si](C)(C)C(C)(C)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])NC)=O | C24H39N3O7Si
